US04992559
Using the same reaction conditions as those of Example 4, 3-(aminomethyl)thiophene hydrochloride (4 mmol), triethylamine (4.4 mmol) and octanoyl chloride (40 mmol) were reacted to give N-(3-thienylmethyl)octanamide (0.85 g, 89%). M.p. 71°-72° C. (Found: C, 65.0; H, 8.4; N. 5.7; S, 13.2. Calculated for C13H21NOS: C, 65.3; H, 8.8; N, 5.9; S, 13.4%); EI m/e Intensity (%): 239 (19, M+), 97 (63, C4H3S.CH2+); δH(CDCl3) 7.03-7.33 (3H, m), 5.60 (1H, br,s), 4.44 (2H, d), 2.19 (2H, t), 1.61 (2H, m), 1.28 (8H, m), 0.87 (3H, t); δC(CDCl3): 14.2, 22.7, 25.8, 29.1, 29.3, 31.8, 36.9, 38.8, 122.3, 126.5, 127.1, 140.0, 173.1 ppm.

reactant | 3-(aminomethyl)thiophene hydrochloride | 4 mmol | Cl.NCC1=CSC=C1
reactant | triethylamine | 4.4 mmol | C(C)N(CC)CC | C6H15N
reactant | octanoyl chloride | 40 mmol | C(CCCCCCC)(=O)Cl | C8H15ClO
product | N-(3-thienylmethyl)octanamide | 0.85 g, 89% | S1C=C(C=C1)CNC(CCCCCCC)=O | C13H21NOS
